US04302464
A. 1-(2-ethylamino-4-pyridyl)-1-ethanone
A mixture of 18.8 g. (94 mmoles) of 1-(2-chloro-4-pyridyl)-1-ethylenedioxyethane and 50 ml. of ethylamine in 80 ml. of N-methyl-2-pyrrolidinone was sealed in a steel bomb and heated at 165° C. for 15 hours. The bomb was cooled and the contents distilled under reduced pressure to remove excess solvent. The residue in 100 ml. of methylene chloride was extracted with 2 N hydrochloric acid (3×25 ml.). The combined acid extracts were heated at 80° C. for 3 hours and were then cooled and made basic with sodium carbonate. The basified mixture was extracted with methylene chloride (4×25 ml.), and the combined organic extracts dried over sodium sulfate and evaporated to an oil which solidified, 11.5 g. (75%), m.p. 55°-57° C. The analytical sample was recrystallized from cyclohexane, m.p. 62°-63° C.

reactant | 1-(2-chloro-4-pyridyl)-1-ethylenedioxyethane | 94 mmoles | ClC1=NC=CC(=C1)C1COCCO1 | C9H10ClNO2
reactant | ethylamine | C(C)N | C2H7N
solvent | N-methyl-2-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
product | 1-(2-ethylamino-4-pyridyl)-1-ethanone | C(C)NC1=NC=CC(=C1)C(C)=O | C9H12N2O
